2124-12-23 10:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2124-12-23**] 05:30 AM
   100x1..150x2
 EKG - At [**2124-12-23**] 05:45 AM
   Intubated after flash pulmonary edema
   Became profoundly hypotensive, on Neo / Dobutamine
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Phenylephrine - 3.5 mcg/Kg/min
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2124-12-23**] 04:30 AM
   Lorazepam (Ativan) - [**2124-12-23**] 05:15 AM
   Amiodarone - [**2124-12-23**] 05:56 AM
   Fentanyl - [**2124-12-23**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-23**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 57 (57 - 114) bpm
   BP: 96/56(63) {69/43(48) - 175/124(128)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
             385 mL
   PO:
             TF:
   IVF:
   385 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    775 mL
   Urine:
   775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 630) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   PIP: 36 cmH2O
   SpO2: 96%
   ABG: 7.21/60/116/22/-5
   Ve: 14.6 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : bases)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   206 K/uL
   14.4 g/dL
   361 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   29 mg/dL
   101 mEq/L
   138 mEq/L
   41.4 %
   11.1 K/uL
        [image002.jpg]
                            [**2124-12-23**]  04:12 AM
                            [**2124-12-23**]  06:53 AM
                            [**2124-12-23**]  07:04 AM
                            [**2124-12-23**]  08:09 AM
   WBC
   11.1
   Hct
   41.4
   Plt
   206
   Cr
   1.4
   1.7
   TropT
   0.19
   TCO2
   29
   25
   Glucose
   154
   361
   Other labs: PT / PTT / INR:12.8/23.5/1.1, CK / CKMB /
   Troponin-T:198/5/0.19, ALT / AST:58/55, Alk Phos / T Bili:67/0.7,
   Albumin:4.1 g/dL, LDH:179 IU/L, Mg++:2.2 mg/dL
   Assessment and Plan
 ANXIETY
 VENTRICULAR TACHYCARDIA, SUSTAINED
 PULMONARY EDEMA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-23**] 06:00 AM
   Multi Lumen - [**2124-12-23**] 10:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-28 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - extensively diuresed with lasix bolus of 60mg, followed by lasix gtt
   -> metabolic alkalosis but stable kidney function
   - unable to wean vent settings [**2-14**] thick secretions
   - d/ced dobutamine [**2-14**] significant ectopy and multiple NSVT
   - -1.9L/ day with lasix gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-27**] 05:31 PM
   Vancomycin - [**2124-12-27**] 08:03 PM
   Piperacillin - [**2124-12-28**] 12:37 AM
   Ciprofloxacin - [**2124-12-28**] 02:37 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-28**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-28**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 92 (70 - 115) bpm
   BP: 129/62(81) {95/44(58) - 159/89(106)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.8 kg (admission): 98.2 kg
   Height: 72 Inch
    CVP: 9 (8 - 9)mmHg
   Total In:
                                                                  3,381 mL
                                                                    788 mL
   PO:
   TF:
                                                                  1,202 mL
                                                                    363 mL
   IVF:
                                                                  1,758 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  5,084 mL
                                                                  1,310 mL
   Urine:
                                                                  5,084 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,703 mL
                                                                   -522 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/53/111/35/12
   Ve: 10.5 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Intubated, opens eyes to verbal stimuli, following commands
   LIJ in place, appears clean
   Heart sounds distant, gallop at apex
   Lungs clear anteriorly
   Ab soft, ND, NT, ABS
   Ext warm and well perfused, decreased LE edema
   Foley in place, with clear urine
   Labs / Radiology
   187 K/uL
   10.1 g/dL
   144 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   35 mg/dL
   97 mEq/L
   140 mEq/L
   29.9 %
   9.4 K/uL
        [image002.jpg]
                            [**2124-12-26**]  01:43 PM
                            [**2124-12-26**]  01:59 PM
                            [**2124-12-26**]  05:45 PM
                            [**2124-12-27**]  01:28 AM
                            [**2124-12-27**]  06:05 AM
                            [**2124-12-27**]  06:20 AM
                            [**2124-12-27**]  05:02 PM
                            [**2124-12-27**]  06:08 PM
                            [**2124-12-28**]  02:25 AM
                            [**2124-12-28**]  02:39 AM
   WBC
   7.6
   9.4
   Hct
   28.0
   27.4
   30.9
   29.9
   Plt
   117
   138
   187
   Cr
   1.7
   1.5
   1.4
   TCO2
   31
   28
   31
   31
   34
   39
   Glucose
   117
   137
   144
   Other labs: PT / PTT / INR:13.1/29.5/1.1, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:35/24, Alk Phos / T Bili:50/0.9,
   Fibrinogen:697 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:4.1 g/dL, LDH:153
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   MICRO:
   [**12-26**] Sputum: prelim no microorganisms
   [**Date range (1) 10558**] BCx: NGTD/pending
   IMAGING:
   [**12-27**] CXR: Interval improvement of the left basilar opacities, but
   worsening of right basilar opacities, representing evolution of
   pulmonary edema. An underlying PNA cannot be excluded.
   Assessment and Plan
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia, now
   complicated by profound hypotension and respiratory failure, in
   critical condition.
   # HYPOTENSION: Resolved.  Pt is now off pressors and has been afebrile.
   SBP 150s.
   -- metoprolol 12.5mg [**Hospital1 **]
   -- continue Vanco / Zosyn / Cipro, currently day [**6-21**]
   -- f/u Blood, urine cultures, sputum
   -- MAP goal > 60
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA. Chest x-ray
   with diffuse edema with likely underlying infiltrate in lower left
   lobe.  First sputum had gram stain positive for multiple organisms, but
   no growth on culture.  2nd sputum gram stain and culture negative to
   date. Satting well on PS this AM. RSBI 30.
   -- SBT today, likely extubation
   -- Antibiotics as above
   -- repeat CXR in AM
   -- lasix gtt for diuresis, I/O goal -1.5-2L
   # ANEMIA: Pt with decreasing HCT from 41 on admission to 29.9
   currently.
   - hemolysis labs negative [**12-26**]
   - monitor HCT
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT. No further episodes of VT.
   Has persistent PVCs. Dobutamine discontinued with decrease in ectopy.
   TSH 1.0 on [**2124-12-23**].
   - start Metoprolol 12.5mg [**Hospital1 **], as above
   - Continue amiodarone 400mg [**Hospital1 **] x 1 week (started [**2124-12-25**]), then 400mg
   daily
   - restart Amio gtt 0.5mg if increase in ectopy
   - Replete lytes
   - Telemetry
   - cath, ICD when stable
   # CORONARIES:  Low suspicion ACS. Refused cath in past, unknown
   coronary anatomy. Initial enzymes negative.
   - ASA 325
   - cath when stable
   # PUMP:  EF 20%, likely mildly volume overloaded presently.   Unclear
   if ischemic, alcoholic, vs idiopathic CMY.
   - Daily weights, strict I/Os, goal -1.5-2L
   - cont lasix gtt
   - start metoprolol, as above
   - restart ACEi when renal function improves and if BP stable
   - repeat ECHO in near future
   # Alcohol: No current signs withdrawal although anxious and on Midaz
   while on vent.
   - CIWA scale when off Midaz.
   #FEN: TF at goal
   #ACCESS: central line, arterial line
   #PROPHYLAXIS:
   -DVT ppx with heparin sc tid
   -Bowel regimen colace, senna, H2 blocker
   j.
   -CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2124-12-27**] 12:12 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-12-23**] 10:05 AM
   Arterial Line - [**2124-12-23**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2506**] and [**Doctor Last Name 9479**].
   I would add the following remarks:
   Medical Decision Making
   Mr [**Known lastname 10520**] remains intubated with less O2 requirements now. He is on
   PS at the current time and tolerating it well. CXR is not improved with
   CHF and underlying pneumonia. He put out 1 L in the past 24 hrs with
   Lasix. Nursing says his secretions are better. He is off dobutamine due
   to NSVT and off pressors as well with adequate BP. He is afebrile and
   RSBI was 30 this am all factors favoring extubation. Will give him a
   SBT then extubate this am. Add lopressor 12.5mg TID. Continue Vanco,
   zosyn, cipro Day #6 of 10 for vent assoc pneumonia. Have discussed the
   plan in detail with the family.
   Above discussed extensively with family member, next of [**Doctor First Name 23**] or health
   care proxy. I have discussed this plan with Dr(s). [**Name (NI) 2506**] and [**Doctor Last Name 9479**].
   Total time spent on patient care: 40 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2124-12-28**] 11:37 AM ------

2124-12-29 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Failed SBT after one hr
   - Did well on repeat SBT, but given nursing concern, was extubation was
   deferred until AM
   - Metoprolol titrated up to 50mg tid
   - Started on CIWA scale with 5mg Valium q4
   - spiked a temp to 101 at noon, pancultured.
   - started on vaolium 10q4
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-27**] 05:31 PM
   Vancomycin - [**2124-12-28**] 08:23 PM
   Piperacillin - [**2124-12-29**] 12:29 AM
   Ciprofloxacin - [**2124-12-29**] 02:36 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Metoprolol - [**2124-12-28**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-28**] 04:00 PM
   Famotidine (Pepcid) - [**2124-12-28**] 09:30 PM
   Midazolam (Versed) - [**2124-12-29**] 06:32 AM
   Fentanyl - [**2124-12-29**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.9
C (100.2
   HR: 89 (69 - 113) bpm
   BP: 150/77(98) {88/43(56) - 174/85(110)} mmHg
   RR: 18 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.8 kg (admission): 98.2 kg
   Height: 72 Inch
    CVP: 9 (2 - 13)mmHg
   Total In:
                                                                  2,633 mL
                                                                  1,006 mL
   PO:
   TF:
                                                                    702 mL
                                                                    354 mL
   IVF:
                                                                  1,511 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  4,590 mL
                                                                    625 mL
   Urine:
                                                                  4,590 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,957 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 515 (404 - 1,085) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI: 11
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 125 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/48/162/38/13
   Ve: 16.5 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Intubated, opens eyes to verbal stimuli, following commands, appears
   agitated and fighting vent
   LIJ in place, appears clean
   Heart sounds distant, gallop at apex
   Lungs rhonchorous
   Ab soft, ND, NT, ABS
   Ext warm and well perfused, decreased LE edema
   Foley in place, with clear urine
   Labs / Radiology
   254 K/uL
   10.7 g/dL
   126 mg/dL
   1.4 mg/dL
   38 mEq/L
   3.9 mEq/L
   36 mg/dL
   97 mEq/L
   141 mEq/L
   31.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2124-12-27**]  06:08 PM
                            [**2124-12-28**]  02:25 AM
                            [**2124-12-28**]  02:39 AM
                            [**2124-12-28**]  09:22 AM
                            [**2124-12-28**]  10:49 AM
                            [**2124-12-28**]  04:53 PM
                            [**2124-12-28**]  11:52 PM
                            [**2124-12-29**]  04:27 AM
                            [**2124-12-29**]  04:37 AM
                            [**2124-12-29**]  06:16 AM
   WBC
   9.4
   11.6
   Hct
   29.9
   31.3
   31.7
   Plt
   187
   254
   Cr
   1.4
   1.3
   1.4
   TCO2
   34
   39
   38
   37
   38
   40
   40
   Glucose
   144
   118
   126
   Other labs: PT / PTT / INR:12.9/24.3/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia, now
   complicated by profound hypotension and respiratory failure, in
   critical condition.
   # HYPERTENSION: Hypotension now resolved.  Pt is now off pressors and
   has been afebrile. Has been hypertensive which his baseline.  He also
   has history of anxiety and may be going through ETOH withdrawl.
   -- metoprolol 50tid
   -- start ACEI
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA. Chest x-ray
   with diffuse edema with likely underlying infiltrate in lower left
   lobe.  First sputum had gram stain positive for multiple organisms, but
   no growth on culture.  2nd sputum gram stain and culture negative to
   date. Satting well on PS this AM. RSBI 11.
   - not tolerating vent well, sedation causes hypotension, and requires
   high levels of sedation not to override the vent.  Has abnormally high
   tidal volumes which may represent his baseline per history from wife.
   Would give trial SBT and extubate today if tolerated for 15-20 minutes.
   -- continue Vanco / Zosyn / Cipro, currently day [**7-21**]
   -- repeat CXR in AM
   -- lasix gtt for diuresis, I/O goal -1.5-2L
   #Fever
 already on broad spectum abx.  No eosinophilia to consider
   drug fever.
   -          f/u cx
   -          pan scan if febrile
   -          treat if  able to localize infection
   -          - complete 7 day course for PNA
   # ANEMIA: Pt with decreasing HCT from 41 on admission to 29.9
   currently.
   - hemolysis labs negative [**12-26**]
   - monitor HCT
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT. No further episodes of VT.
   Has persistent PVCs. Dobutamine discontinued with decrease in ectopy.
   TSH 1.0 on [**2124-12-23**].  Continues to have PVCs but not NSVT.
   - continue metoprolol
   - Continue amiodarone 400mg [**Hospital1 **] x 1 week (started [**2124-12-25**]), then 400mg
   daily
   - increase amio to 0.5ggt if sustained VT
   - Replete lytes
   - Telemetry
   - cath, ICD when stable
   # CORONARIES:  Low suspicion ACS. Refused cath in past, unknown
   coronary anatomy. Initial enzymes negative.
   - ASA 325
   - cath when stable
   # PUMP:  EF 20%, likely mildly volume overloaded presently.   Unclear
   if ischemic, alcoholic, vs idiopathic CMY.
   - Daily weights, strict I/Os, goal -1.5-2L
   - cont lasix gtt
   - metorpolol
   -  ACEi if tolerated
   - repeat ECHO today
   # Alcohol: No current signs withdrawal although anxious and on Midaz
   while on vent.
   - CIWA scale
   #FEN: regular diet
   #ACCESS: central line, arterial line
   #PROPHYLAXIS:
   -DVT ppx with heparin sc tid
   -Bowel regimen colace, senna, H2 blocker
   -CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2124-12-28**] 06:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-12-23**] 10:05 AM
   Arterial Line - [**2124-12-23**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-31 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - c/o flank pain which improves with valium
   - desat to 80s esp when on left side: CXR relatively unchanged and
   improved with suctioning
   - new right sided flank pain with transaminitis: KUB unremarkable and
   RUQ US with nonspecific liver changes
   - d/ced amiodarone [**2-14**] new transaminitis/ elevated pancreatic enzymes
   - 3am: pt agitated and pulling at lines, oriented x 2.  Had been given
   valium q 4 hrs for muscle pain overnight.  Gave olanzipine 5mg for
   agitation and stopped benzos for muscle pain (kept for CIWA scale).
   Needed to repeat again at 6:30am, also gave 2 mg IV ativan for possible
   ICU psychosis
   - titrated up bblocker to 75mg TID in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-12-29**] 12:29 AM
   Vancomycin - [**2124-12-30**] 08:30 PM
   Ciprofloxacin - [**2124-12-30**] 11:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-31**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-12-30**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-31**] 12:00 AM
   Lorazepam (Ativan) - [**2124-12-31**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-31**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.6
C (99.6
   HR: 88 (73 - 91) bpm
   BP: 141/78(97) {96/50(66) - 145/78(97)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.8 kg (admission): 98.2 kg
   Height: 72 Inch
             Total In:
                                                                  2,427 mL
                                                                    435 mL
   PO:
                                                                  1,200 mL
                                                                    210 mL
   TF:
   IVF:
                                                                  1,227 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  4,280 mL
                                                                  1,360 mL
   Urine:
                                                                  4,280 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,853 mL
                                                                   -925 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.50/48/126/35/12
   PaO2 / FiO2: 133
   Physical Examination
   General: agitated, pulling at lines
   Neck: LIJ in place, nonerythematous
   Heart: RRR S1S2 no m/r/g
   Lungs: rhonchorous throughout
   Ab: soft, ND, NT, ABS; no costovertebral tenderness
   Ext: warm and well perfused, trace edema
   Foley in place, with dark- colored urine
   Labs / Radiology
   385 K/uL
   11.5 g/dL
   115 mg/dL
   1.7 mg/dL
   35 mEq/L
   4.1 mEq/L
   42 mg/dL
   93 mEq/L
   139 mEq/L
   33.3 %
   19.2 K/uL
        [image002.jpg]
                            [**2124-12-29**]  12:20 PM
                            [**2124-12-29**]  05:24 PM
                            [**2124-12-30**]  02:04 AM
                            [**2124-12-30**]  08:46 AM
                            [**2124-12-30**]  08:56 AM
                            [**2124-12-30**]  10:24 AM
                            [**2124-12-30**]  05:04 PM
                            [**2124-12-30**]  05:18 PM
                            [**2124-12-31**]  02:30 AM
                            [**2124-12-31**]  05:49 AM
   WBC
   18.1
   19.2
   Hct
   32.3
   33.3
   Plt
   307
   385
   Cr
   1.2
   1.3
   1.5
   1.6
   1.7
   TCO2
   37
   35
   33
   36
   39
   Glucose
   115
   120
   136
   119
   115
   Other labs: PT / PTT / INR:14.5/25.7/1.3, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:149/85, Alk Phos / T Bili:106/1.0,
   Amylase / Lipase:195/337, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:5.1 %, Mono:6.7 %, Eos:1.6 %, Fibrinogen:697 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:256 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   RUQ U/S: patent hepatic vein/ portal vein; coarse liver echotexture may
   represent diffuse hepatic disease and cirrhosis/ fibrosis can not be
   excluded; 1 cm echogenic lesion in right lobe of liver may represent
   hemangioma (recommend f/u by MRI in 6mths), 7mm angiomyolipoma
   CXR: [**12-29**]: cardiomegaly moderate-severe/ unchanged.  Widespread
   parenchymal opacities are unchanged as well, most consistent with combo
   partially resolved pulmonary edema and multifocal consolidation
   worrisome for infectious process.  No appreciable pleural effusion.
   Microbiology:
   C diff: negative
   Urine/ blood cx pending
   Assessment and Plan
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia.
   Hospital course cx by profound hypotension and respiratory distress
   requiring intubation.  Now with increasing WBC, persistent fevers and
   delerium
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA. Chest x-ray
   with diffuse bilateral inflitrates, relatively unchanged despite
   significant diuresis and clinical euvolemia by exam.  First sputum had
   gram stain positive for multiple organisms, but no growth on culture.
   2nd sputum gram stain and culture negative to date. Saturations better
   after suctioning thick secretions and sitting patient up in bed.
   -- continue Vanco / Zosyn / Cipro, currently day [**9-21**], check vanc level
   in setting of changing renal function
   -- frequent suctioning to remove secretions
   -- continue nebs prn
   -- f/u final read CXR
   -- consider PE if respiratory status does not improve
   -- CT chest to better assess infiltrates
   #Fever, leukocytosis
 suggest infectious process despite broad
   spectrum antibiotics for VAP.  Pt not immunocompromised so unlikely to
   have opportunistic infection.  With new right sided flank pain would
   consider pyelonephritis, diverticulitis, referred pain from R sided PNA
   (unlikely with CXR findings), cholecystitis.  RUQ without any acute
   pathology, c.diff negative.  Other noninfectious etiologies for FUO
   include autoimmune dx, drug fever, malignancy
   -- f/u blood cx
   -- f/u sputum cx, urinalysis
   -- RUQ US
   -- CT torso
   # R flank pain: Differential Dx: muscle strain, hepatic inflammation
   (suggested by new transaminitis), nephrolithiasis.  Transaminitis could
   be infectious, drug effect (on amiodarone, zosyn), hepatic vein
   thrombosis, underlying cirrhosis, congestive from fluid overload.  RUQ
   U/S with dopplers with no acute pathology
   -- repeat U/A
   -- send C. diff toxins
   -- morphine prn pain
   -- d/c amiodarone
   # ANEMIA: Pt with decreasing HCT from 41 on admission to 29.9
   currently.
   - hemolysis labs negative [**12-26**]
   - monitor HCT
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT. No further episodes of VT.
   Has persistent PVCs. Dobutamine discontinued with decrease in ectopy.
   TSH 1.0 on [**2124-12-23**].  Continues to have PVCs but not NSVT.
   -- continue metoprolol at increased dose
   -- d/ced amiodarone given transaminitis
   -- Replete lytes
   -- Telemetry
   -- cath, consider ICD when stable
   -- f/u EP recs regarding over potential antiarrhythmics
   # CORONARIES:  Low suspicion ACS. Refused cath in past, unknown
   coronary anatomy. Initial enzymes negative.
   - ASA 325
   - cath when stable
   # PUMP:  EF 20%, clinically euvolemic to slightly dehydrated with
   metabolic alkalosis on labs.   Unclear if ischemic, alcoholic, vs
   idiopathic CMY.
   - Daily weights, strict I/Os, goal even
   - continue metorpolol, ACEI
   # Hx Alcohol use: had some episodes of hallucinations after d/c
   midazolam that resolved with valium per CIWA scale.  Current delirium
   more likely related to ICU psychosis than DTs
   - CIWA scale
   - if no signs of withdrawal, would consider antipsychotic (avoiding
   halidol due to association with prolonged QT)
   #FEN: regular diet
   #ACCESS: central line, arterial line
   #PROPHYLAXIS:
   -DVT ppx with heparin sc tid
   -Bowel regimen colace, senna, H2 blocker
   -CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10428**].
   I would add the following remarks:
   History
   Still spiking fevers to 102.
   Pelvic and chest CT obtained with results pending.
   LFTs better.   Cr up to 1.7.  Neg 1 L on lasix drip.
   Infiltrates slightly worse,   Pulmonary edema persist on CXR.
   On heparin for cephalic vein thrombus.
   Physical Examination
   Mild resp distress
   Medical Decision Making
   Appreciate EP followup.
   Off Amio.
   Persisting fevers major concern.
   Will obtain ID input.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2124-12-31**] 20:39 ------

2125-01-01 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2124-12-31**] 08:58 PM
   temp spike 102 R bld cult x2
 URINE CULTURE - At [**2124-12-31**] 08:58 PM
 FEVER - 102.0
F - [**2124-12-31**] 08:00 PM
   - Occlusive thrombus in cephalic vein above and below elbow.
   subclavian vein patent.
   - Started on heparin drip, no bolus
   - I/Os even
   - CT chest/abd:  bibasilar consolidations with nodular opacities within
   the lungs.  likely related to multifocal vs asp PNA.  extensive
   mediastinal and hilar lymphadenopathy with calcifications.  acute on
   chronic process, or may be reactive to pna and fluid and overload.
   malignancy cannot be excluded.  may be accessible via transbronchial
   biopsy.
   - Vanco trough 16, continuing vanco at current dose
   - continues to be alkalemic, gave 100cc fluid bolus in addition to
   repleting lytes. Ordered ABG with AM labs.
   - started on ativan for agitation, responds better than with valium.
   - hematuria, likely traumatic although started several hours after
   heparin started.
   - spiked temp in afternoon, pancultured,  spiked again overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-12-30**] 11:45 PM
   Vancomycin - [**2124-12-31**] 11:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-31**] 11:56 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-12-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-12-31**] 04:01 PM
   Lorazepam (Ativan) - [**2125-1-1**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-1**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.8
C (101.8
   HR: 80 (72 - 95) bpm
   BP: 113/62(74) {113/62(74) - 113/62(74)} mmHg
   RR: 18 (15 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.8 kg (admission): 98.2 kg
   Height: 72 Inch
             Total In:
                                                                  2,855 mL
                                                                    400 mL
   PO:
                                                                  1,580 mL
             TF:
   IVF:
                                                                  1,275 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    470 mL
   Urine:
                                                                  2,800 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     55 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.47/48/110/32/9
   PaO2 / FiO2: 138
   Physical Examination
   General: awake, lying comfortably, NAD
   Neck: LIJ in place, nonerythematous
   Heart: RRR S1S2 no m/r/g
   Lungs: rhonchorous throughout
   Ab: soft, ND, NT, ABS; no costovertebral tenderness
   Ext: warm and well perfused, trace edema, +dp pulses
   Foley in place, with dark- colored urine
   Labs / Radiology
   487 K/uL
   11.4 g/dL
   127 mg/dL
   1.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   45 mg/dL
   93 mEq/L
   138 mEq/L
   33.5 %
   21.4 K/uL
        [image002.jpg]
                            [**2124-12-30**]  08:56 AM
                            [**2124-12-30**]  10:24 AM
                            [**2124-12-30**]  05:04 PM
                            [**2124-12-30**]  05:18 PM
                            [**2124-12-31**]  02:30 AM
                            [**2124-12-31**]  05:49 AM
                            [**2124-12-31**]  08:30 PM
                            [**2124-12-31**]  08:42 PM
                            [**2125-1-1**]  05:38 AM
                            [**2125-1-1**]  06:30 AM
   WBC
   19.2
   21.4
   Hct
   33.3
   33.5
   Plt
   385
   487
   Cr
   1.6
   1.7
   1.7
   TCO2
   35
   33
   36
   39
   36
   36
   Glucose
   119
   115
   127
   Other labs: PT / PTT / INR:14.5/76.8/1.3, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:149/85, Alk Phos / T Bili:106/1.0,
   Amylase / Lipase:195/337, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:5.1 %, Mono:6.7 %, Eos:1.6 %, Fibrinogen:697 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:256 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   MICRO:
   Cdiff negative x2
   [**Last Name (un) **] Cx
 pending
   BCx
 pending
   IMAGING:
   RUE U/S:
   Occlusive cephalic vein thrombus above and below the elbow.
   CT torso (prelim)
   bibasilar consolidations with nodular opacities within the lungs.
   likely related to multifocal vs asp PNA.  extensive mediastinal and
   hilar lymphadenopathy with calcifications.  acute on chronic process,
   or may be reactive to pna and fluid and overload.  malignancy cannot be
   excluded.  may be accessible via transbronchial biopsy.
   Assessment and Plan
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia.
   Hospital course cx by profound hypotension and respiratory distress
   requiring intubation.  Now with increasing WBC, persistent fevers and
   delirium
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA. Chest x-ray
   with diffuse bilateral inflitrates, relatively unchanged despite
   significant diuresis and clinical euvolemia by exam.  First sputum had
   gram stain positive for multiple organisms, but no growth on culture.
   Subsequent sputum cultures negative. Saturations better after
   suctioning thick secretions and sitting patient up in bed. CT torso
   with bibasilar consolidations with nodular opacities within the lungs,
   c/w multifocal vs aspiration PNA; extensive mediastinal and hilar LAD
   with calcifications - ? reactive vs malignancy.
   -- continue Vanco / Zosyn / Cipro, currently day [**10-21**], check vanc
   level in setting of changing renal function
   -- frequent suctioning to remove secretions
   -- continue nebs prn
   -- consider PE if respiratory status does not improve
   # RUE DVT: Pt found to have occlusive thrombus in cephalic vein on RUE
   U/S.
   -- continue heparin gtt
   #Fever, leukocytosis
 suggest infectious process despite broad
   spectrum antibiotics for VAP.  Pt not immunocompromised so unlikely to
   have opportunistic infection.  With new right sided flank pain would
   consider pyelonephritis, diverticulitis, referred pain from R sided PNA
   (unlikely with CXR findings), cholecystitis.  RUQ without any acute
   pathology, c.diff negative.  Other noninfectious etiologies for FUO
   include autoimmune dx, drug fever, malignancy
   -- f/u blood cx
   -- f/u sputum cx, urinalysis
   -- RUQ US
   -- CT torso
   # R flank pain: Differential Dx: muscle strain, hepatic inflammation
   (suggested by new transaminitis), nephrolithiasis.  Transaminitis could
   be infectious, drug effect (on amiodarone, zosyn), hepatic vein
   thrombosis, underlying cirrhosis, congestive from fluid overload.  RUQ
   U/S with dopplers with no acute pathology
   -- repeat U/A
   -- send C. diff toxins
   -- morphine prn pain
   -- d/c amiodarone
   # ANEMIA: initial drop in HCT from 41 to 30. Has been stable for
   several days. Currently 33.5.
   - hemolysis labs negative [**12-26**]
   - monitor HCT
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT. No further episodes of VT.
   Has persistent PVCs. Dobutamine discontinued with decrease in ectopy.
   TSH 1.0 on [**2124-12-23**].  Continues to have PVCs but not NSVT.
   -- continue metoprolol at increased dose
   -- d/ced amiodarone given transaminitis
   -- Replete lytes
   -- Telemetry
   -- cath, consider ICD when stable
   -- f/u EP recs regarding over potential antiarrhythmics
   # CORONARIES:  Low suspicion ACS. Refused cath in past, unknown
   coronary anatomy. Initial enzymes negative.
   - ASA 325
   - cath when stable
   # PUMP:  EF 20%, clinically euvolemic to slightly dehydrated with
   metabolic alkalosis on labs.   Unclear if ischemic, alcoholic, vs
   idiopathic CMY.
   - Daily weights, strict I/Os, goal even
   - continue metorpolol, ACEI
   # Hx Alcohol use: had some episodes of hallucinations after d/c
   midazolam that resolved with valium per CIWA scale.  Current delirium
   more likely related to ICU psychosis than DTs
   - CIWA scale
   - if no signs of withdrawal, would consider antipsychotic (avoiding
   halidol due to association with prolonged QT)
   #FEN: regular diet
   #ACCESS: central line, arterial line
   #PROPHYLAXIS:
   -DVT ppx with heparin sc tid
   -Bowel regimen colace, senna, H2 blocker
   -CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-12-23**] 10:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-01-02 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt with AMS, failed speech and swallow.  Made NPO except meds with
   nectar-thickened liquids
   - ID: d/c zosyn, cipro, start meropenem 500mg IV q8h, sputum gram stain
   and culture, r/o flu, consider d/c CVL, d/c foley when feasible and
   repeat UA/UCx; if loose stool send for Cdiff + empiric coverage while
   awaiting results
   - Pulm: will staff in AM, repeat CT in 6wk-3mo, agree with Abx coverage
   with [**Last Name (un) 350**], check ACE to r/o sarcoid
   - 8p: spiked to 101 and agitated, BCx, UCx sent, awaiting sputum Cx,
   flu swab; Ativan 4mg, restraints, Valium 10mg
   - 2:30a: 101.8, loose stool sent for Cdiff (#3), started IV Flagyl
   - oral thrush, started nystatin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-12-30**] 11:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-31**] 11:56 PM
   Piperacillin - [**2125-1-1**] 04:25 PM
   Vancomycin - [**2125-1-1**] 09:30 PM
   Meropenem - [**2125-1-1**] 10:36 PM
   Metronidazole - [**2125-1-2**] 03:14 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-1-1**] 09:09 AM
   Diazepam (Valium) - [**2125-1-1**] 10:34 PM
   Lorazepam (Ativan) - [**2125-1-2**] 03:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-2**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.7
C (101.6
   HR: 78 (66 - 88) bpm
   BP: 130/67(81) {97/22(56) - 146/88(97)} mmHg
   RR: 19 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 98.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,781 mL
                                                                    388 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                  1,691 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    570 mL
   Urine:
                                                                  2,240 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -459 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General: awake, lying comfortably, NAD
   Neck: LIJ in place, nonerythematous
   Heart: RRR S1S2 no m/r/g
   Lungs: rhonchorous throughout
   Ab: soft, ND, NT, ABS; no costovertebral tenderness
   Ext: warm and well perfused, trace edema. Right 1^st metatarsal
   erythematous/ nontender to palpation.  +dp pulses
   Neuro: A+O x 2 (knows name, [**Hospital1 5**]), CN II- XII intact; strength 4/5
   extremities b/l
   Foley in place, with dark- colored urine
   Labs / Radiology
   523 K/uL
   11.0 g/dL
   114 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.7 mEq/L
   41 mg/dL
   100 mEq/L
   141 mEq/L
   33.3 %
   20.5 K/uL
        [image002.jpg]
                            [**2124-12-30**]  05:04 PM
                            [**2124-12-30**]  05:18 PM
                            [**2124-12-31**]  02:30 AM
                            [**2124-12-31**]  05:49 AM
                            [**2124-12-31**]  08:30 PM
                            [**2124-12-31**]  08:42 PM
                            [**2125-1-1**]  05:38 AM
                            [**2125-1-1**]  06:30 AM
                            [**2125-1-1**]  08:10 PM
                            [**2125-1-2**]  05:51 AM
   WBC
   19.2
   21.4
   20.5
   Hct
   33.3
   33.5
   33.3
   Plt
   [**Telephone/Fax (3) 10637**]
   Cr
   1.6
   1.7
   1.7
   1.6
   1.6
   1.4
   TCO2
   36
   39
   36
   36
   Glucose
   119
   115
   127
   113
   117
   114
   Other labs: PT / PTT / INR:14.5/117.6/1.3, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:68/40, Alk Phos / T Bili:110/0.8,
   Amylase / Lipase:195/607, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:5.1 %, Mono:6.7 %, Eos:1.6 %, Fibrinogen:697 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:206 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Microbiology:
   C diff: negative
   Blood cx pending
   Assessment and Plan
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia.
   Hospital course cx by profound hypotension and respiratory distress
   requiring intubation.  Now with increasing WBC, persistent fevers and
   delirium
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA. Chest x-ray
   with diffuse bilateral inflitrates, relatively unchanged despite
   significant diuresis and clinical euvolemia by exam.  First sputum had
   gram stain positive for multiple organisms, but no growth on culture.
   Subsequent sputum cultures negative. Saturations better after
   suctioning thick secretions and sitting patient up in bed. CT torso
   with bibasilar consolidations with nodular opacities within the lungs,
   c/w multifocal vs aspiration PNA; extensive mediastinal and hilar LAD
   with calcifications - ? reactive vs malignancy.
   -- continue Vanco day [**11-25**] and meropenem as per ID recommendation
   -- f/u ACE to r/o sarcoid
   -- f/u sputum for cytology
   -- frequent suctioning to remove secretions
   -- continue nebs prn
   -- consider PE if respiratory status does not improve
   -- repeat CT in 6 wks to assess for changes in pulm nodules
   # RUE DVT: Pt found to have occlusive thrombus in cephalic vein on RUE
   U/S.
   -- continue heparin gtt
   #Fever, leukocytosis
 suggest infectious process despite broad
   spectrum antibiotics for VAP.  Pt not immunocompromised so unlikely to
   have opportunistic infection.  Right sided flank pain has resolved.
   RUQ without any acute pathology, c.diff negative x 3. CT torso with no
   abdominal pathology, continued increase in lipase but no clinical sx of
   pancreatitis. Possible aspiration pneumonitis.  AMS but no meningeal
   signs.  Other noninfectious etiologies for FUO include autoimmune dx,
   drug fever, malignancy, DVT
   -- f/u blood cx
   -- f/u sputum cx, urinalysis
   -- cont empiric abx with vanc/ [**Last Name (un) **]/ flagyl
   -- NPO until mental status improves
   -- f/u ID recs
   # Transminitis: infectious, drug effect (on amiodarone, zosyn), hepatic
   vein thrombosis, underlying cirrhosis, congestive from fluid overload.
   RUQ U/S with dopplers with no acute pathology. Trending down after d/c
   of Amio.
   -- d/c amiodarone
   # ANEMIA: initial drop in HCT from 41 to 30. Has been stable for
   several days. Currently 33.5.
   - hemolysis labs negative [**12-26**]
   - monitor HCT
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT. No further episodes of VT.
   Has persistent PVCs. Dobutamine discontinued with decrease in ectopy.
   TSH 1.0 on [**2124-12-23**].  Continues to have PVCs but not NSVT.
   -- continue metoprolol at increased dose
   -- d/ced amiodarone given transaminitis
   -- Replete lytes
   -- Telemetry
   -- cath, consider ICD when stable
   -- f/u EP recs regarding over potential antiarrhythmics
   # CORONARIES:  Low suspicion ACS. Refused cath in past, unknown
   coronary anatomy. Initial enzymes negative.
   - ASA 325, BB, ACEi
   - cath when stable
   # PUMP:  EF 20%, clinically euvolemic to slightly dehydrated with
   metabolic alkalosis on labs.   Unclear if ischemic, alcoholic, vs
   idiopathic CMY.
   - Daily weights, strict I/Os, goal even
   - continue metoprolol, ACEI
   # Hx Alcohol use: had some episodes of hallucinations after d/c
   midazolam that resolved with valium per CIWA scale.  Current delirium
   more likely related to ICU psychosis than DTs
   - CIWA scale
   - Ativan prn agitation as antipsychotics relatively contraindicated:
   halidol prolongs QTc and atypicals have hepatotoxicity
   #FEN: regular diet
   #ACCESS: central line
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen colace, senna, H2 blocker
   -CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-12-23**] 10:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-01-03 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2125-1-3**] 04:00 AM
   - pulm recs: do not want to do bronch at this time given clinical
   instability and likely reactive lymphadenopathy; recommend cardiac MRI
   to [**Year (4 digits) **] for cardiac sarcoid as outpatient and repeat chest CT in 6wk
   - 3mo
   - psych recs: Suggest haldol iv for acute agitation, begin with 1-2 mg
   dosing; increase as indicated/tolerated to 5 mg, can repeat
   hourly-- monitor for QTc prolongation, if further increase would
   need to hold, could consider alternate neuroleptics but likely
   have similar risk.  Standing quetiapine at hs if unable to take po
   could again use iv haldol for this purpose 2-5 mg
   - received halidol x 1 at 1am for agitation
   - frank hematuria after pulling on foley but hct stabcle and catheter
   with good [**Name (NI) **]
   - pt with VT this AM. Code Blue called. Patient was in a chair and
   maintained pulse and mentation.  Patient converted back to sinus prior
   to inititation of shock.  He was started on 100mg IV lidocaine,
   followed by 1mg/hr.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-31**] 11:56 PM
   Piperacillin - [**2125-1-1**] 04:25 PM
   Metronidazole - [**2125-1-2**] 03:14 AM
   Vancomycin - [**2125-1-2**] 08:00 PM
   Meropenem - [**2125-1-2**] 10:30 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-3**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 93 (65 - 93) bpm
   BP: 130/78(93) {83/46(58) - 143/92(101)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 98.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,840 mL
                                                                    143 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  1,570 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    400 mL
   Urine:
                                                                  1,625 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    215 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General: awake, lying comfortably in bed, AAOx3 (although thought this
   was [**Hospital 2461**] hosp)
   Neck: LIJ in place, nonerythematous
   Heart: RRR S1S2 no m/r/g
   Lungs: equal air entry b/l, improving rhonchi
   Ab: soft, ND, NT, ABS; no costovertebral tenderness
   Ext: warm and well perfused, trace edema. Right 1st metatarsal
   erythematous/ nontender to palpation.  +dp pulses
   Neuro:, CN II- XII intact; strength 4/5 extremities b/l
   Foley in place, with blood- colored urine
   Labs / Radiology
   595 K/uL
   11.0 g/dL
   126 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.8 mEq/L
   37 mg/dL
   108 mEq/L
   145 mEq/L
   33.4 %
   21.2 K/uL
        [image002.jpg]
                            [**2124-12-30**]  05:18 PM
                            [**2124-12-31**]  02:30 AM
                            [**2124-12-31**]  05:49 AM
                            [**2124-12-31**]  08:30 PM
                            [**2124-12-31**]  08:42 PM
                            [**2125-1-1**]  05:38 AM
                            [**2125-1-1**]  06:30 AM
                            [**2125-1-1**]  08:10 PM
                            [**2125-1-2**]  05:51 AM
                            [**2125-1-3**]  04:02 AM
   WBC
   19.2
   21.4
   20.5
   21.2
   Hct
   33.3
   33.5
   33.3
   33.4
   Plt
   [**Telephone/Fax (3) 10658**]95
   Cr
   1.7
   1.7
   1.6
   1.6
   1.4
   1.5
   TCO2
   36
   39
   36
   36
   Glucose
   115
   127
   113
   117
   114
   126
   Other labs: PT / PTT / INR:20.0/97.9/1.8, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:61/45, Alk Phos / T Bili:120/0.7,
   Amylase / Lipase:195/918, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:5.1 %, Mono:6.7 %, Eos:1.6 %, Fibrinogen:697 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:206 IU/L, Ca++:10.4 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CARDIOMYOPATHY, OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SHOCK, CARDIOGENIC
 ANXIETY
 VENTRICULAR TACHYCARDIA, SUSTAINED
 PULMONARY EDEMA
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia.
   Hospital course cx by profound hypotension and respiratory distress
   requiring intubation.  Now with increasing WBC, persistent fevers and
   delirium
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT on admission.  Pt with
   episode of VT today, but maintained pulse and mentation throughout.
   He was started on lidocaine gtt.
   -- cont lidocaine gtt
   -- continue metoprolol at 75mg TID
   -- appreciate EP recs
   -- d/ced amiodarone given transaminitis
   -- Replete lytes
   -- Telemetry
   -- will need cath and ICD placement. Will need to discuss with EP
   regarding timing given persistent leukocytosis and fever
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA. Chest x-ray
   with diffuse bilateral inflitrates, relatively unchanged despite
   significant diuresis and clinical euvolemia by exam.  Multiple negative
   sputum cx.  Saturations improving with suctioning, oxygen requirement
   decreasing. CT torso with bibasilar consolidations with nodular
   opacities within the lungs, c/w multifocal vs aspiration PNA; extensive
   mediastinal and hilar LAD with calcifications - ? reactive vs
   malignancy.
   -- continue Vanco day [**12-25**] and meropenem as per ID recommendation
   -- f/u ACE to r/o sarcoid
   -- f/u sputum for cytology
   -- frequent suctioning to remove secretions
   -- continue nebs prn
   -- repeat CT in 6 wks to [**Month/Year (2) **] for changes in pulm nodules and cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **] for sarcoid
   # RUE DVT: Pt found to have occlusive thrombus in cephalic vein on RUE
   U/S. Pt with hematuria.
   -- continue heparin gtt with decreased PTT goal 60-80
   #Fever, leukocytosis
 suggest infectious process despite broad
   spectrum antibiotics for VAP.  Pt not immunocompromised so unlikely to
   have opportunistic infection.  Right sided flank pain has resolved.
   RUQ without any acute pathology, c.diff negative x 3. CT torso with no
   abdominal pathology, continued increase in lipase but no clinical sx of
   pancreatitis. Possible aspiration pneumonitis.  AMS but no meningeal
   signs.  Other noninfectious etiologies for FUO include autoimmune dx,
   drug fever, malignancy, DVT
   -- f/u blood cx, sputum cx, urinalysis
   -- patient ordered for PICC and will plan to remove CVL
   -- cont empiric abx with vanc/ [**Last Name (un) **]
   -- consider po vanco for toxin negative c. diff. Will discuss with ID
   -- f/u ID recs
   # Pancreatitis and transaminitis: drug effect (on amiodarone, zosyn),
   hepatic vein thrombosis, underlying cirrhosis, congestive from fluid
   overload.  RUQ U/S with dopplers with no acute pathology. Trending down
   after d/c of Amio.  Pt without abdominal pain. Non-contrast CT no
   pancreatitic abnormality, but limited
   -- cont to trend LFT
   -- d/c amiodarone
   # ANEMIA: initial drop in HCT from 41 to 33. Has been stable for
   several days.  Pt with gross hematuria from foley
   - hemolysis labs negative [**12-26**]
   - monitor HCT
   .
   #. Hematuria: Pt with hematuria overnight. Likely due to trauma and
   heparin gtt. Still good [**Month/Year (2) **] and no clots.
   -- cont to monitor [**Month/Year (2) **]
   -- consider CBI if clots
   .
   # CORONARIES:  Low suspicion ACS. Refused cath in past, unknown
   coronary anatomy. Initial enzymes negative.
   - ASA 325, BB, ACEi
   - cath when stable
   # PUMP:  EF 20%, clinically euvolemic to slightly dehydrated with
   metabolic alkalosis on labs.   Unclear if ischemic, alcoholic, vs
   idiopathic CMY. Given 40mg IV lasix x1 this AM
   - Daily weights, strict I/Os, goal negative 500-1000l
   - continue metoprolol, ACEI
   # AMS: repeat episodes of delirium that improved with seroquel and
   haldol prn. Psych following.  Secondary to ICU psychosis and systemic
   illness/ fevers.  Unlikely to be CNS infection given non-focal neuro
   exam, no meningeal signs.  Unlikely to be ETOH withdrawal this far into
   hospital course.
   - cont seroquel QHS to reorient to normal day-night cycles
   - haldol prn, monitor QTc
   - limit hospital tethers: lines, restraints as possible
   #FEN: NPO/ replete prn
   #ACCESS: central line
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen colace, senna, H2 blocker
   -CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-12-23**] 10:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Will start spironolactone 12.5mg daily.
   ------ Protected Section Addendum Entered By:[**Name (NI) 528**] [**Last Name (NamePattern1) 284**], MD
   on:[**2125-1-3**] 10:29 ------

2125-01-04 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2125-1-3**] 12:58 PM
 MULTI LUMEN - STOP [**2125-1-4**] 12:44 AM
   - several minutes of VT at 240bpm in the AM with sufficient MAP to
   maintain consciousness; terminated s/p 100 of lidocaine and drip at 1.
   - VT recurred (self terminated) for 25 beats at same rate/axis in pm
   and 10 beat run at 2am.
   - Per ID suspect HAP over cdiff but could cover with empiric po vanco
   if persistent leukocytosis fails to improve.
   - somewhat delerious in AM, but improved throughout the day.
   - PICC placed and CVL removed and sent for culture
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2125-1-1**] 04:25 PM
   Metronidazole - [**2125-1-2**] 03:14 AM
   Vancomycin - [**2125-1-3**] 09:00 PM
   Meropenem - [**2125-1-4**] 06:00 AM
   Infusions:
   Lidocaine - 1 mg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-1-3**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-4**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 70 (63 - 220) bpm
   BP: 97/52(62) {87/36(48) - 142/86(93)} mmHg
   RR: 28 (14 - 43) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 98.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,925 mL
                                                                    365 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                  1,505 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    430 mL
   Urine:
                                                                  2,430 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -505 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General: awake, lying comfortably in bed, AAOx3
   Neck: supple, JVP 8cm
   Heart: RRR S1S2 no m/r/g
   Lungs: equal air entry b/l, improving rhonchi
   Ab: soft, ND, NT, ABS; no costovertebral tenderness
   Ext: warm and well perfused, trace edema. Right 1st metatarsal
   erythematous/ nontender to palpation.  +dp pulses
   Neuro:, CN II- XII intact; strength 4/5 extremities b/l
   Foley in place, with blood- colored urine
   Labs / Radiology
   558 K/uL
   10.5 g/dL
   108 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   35 mg/dL
   106 mEq/L
   141 mEq/L
   31.6 %
   15.1 K/uL
        [image002.jpg]
                            [**2124-12-31**]  05:49 AM
                            [**2124-12-31**]  08:30 PM
                            [**2124-12-31**]  08:42 PM
                            [**2125-1-1**]  05:38 AM
                            [**2125-1-1**]  06:30 AM
                            [**2125-1-1**]  08:10 PM
                            [**2125-1-2**]  05:51 AM
                            [**2125-1-3**]  04:02 AM
                            [**2125-1-3**]  01:37 PM
                            [**2125-1-4**]  04:16 AM
   WBC
   21.4
   20.5
   21.2
   15.1
   Hct
   33.5
   33.3
   33.4
   31.6
   Plt
   487
   523
   595
   558
   Cr
   1.7
   1.6
   1.6
   1.4
   1.5
   1.4
   1.2
   TCO2
   39
   36
   36
   Glucose
   127
   113
   117
   114
   126
   107
   108
   Other labs: PT / PTT / INR:18.4/66.8/1.7, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:58/43, Alk Phos / T Bili:99/0.5,
   Amylase / Lipase:195/611, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:5.1 %, Mono:6.7 %, Eos:1.6 %, Fibrinogen:697 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:235 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CARDIOMYOPATHY, OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SHOCK, CARDIOGENIC
 ANXIETY
 VENTRICULAR TACHYCARDIA, SUSTAINED
 PULMONARY EDEMA
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia.
   Hospital course cx by profound hypotension and respiratory distress
   requiring intubation.  Now with increasing WBC, persistent fevers and
   delirium
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT on admission.  Pt with
   episode of VT that responded to 100mg IV lidocaine followed by gtt at
   1mg/min. Pt with 2 more short runs  last 24hrs.today, but maintained
   pulse and mentation throughout.
   -- cont lidocaine gtt and discuss further recommendation with EP
   -- continue metoprolol at 75mg TID
   -- d/ced amiodarone given transaminitis
   -- Replete lytes
   -- Telemetry
   -- will need cath and ICD placement. Will need to discuss with EP
   regarding timing given improved leukocytosis and fever curve
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA.  Pt with
   improved resp status and only requiring 4L NC. Multiple negative sputum
   cx.  CT torso with bibasilar consolidations with nodular opacities
   within the lungs, c/w multifocal vs aspiration PNA; extensive
   mediastinal and hilar LAD with calcifications - ? reactive vs
   malignancy.
   -- continue Vanco day 13 and meropenem day 4 as per ID recommendation
   -- f/u ACE to r/o sarcoid
   -- f/u sputum for cytology
   -- frequent suctioning to remove secretions
   -- continue nebs prn
   -- repeat CT in 6 wks to [**Doctor Last Name **] for changes in pulm nodules and cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **] for sarcoid
   # RUE DVT: Pt found to have occlusive thrombus in cephalic vein on RUE
   U/S. Pt with cont hematuria.
   -- continue heparin gtt with conservative PTT goal 60-80
   #Fever, leukocytosis
 Pt febrile this AM. Leukocytosis is trending
   down.  Pt improving on Vanco/[**Last Name (un) 350**]. Suggest infectious process despite
   prior broad spectrum antibiotics for VAP.  Pt not immunocompromised so
   unlikely to have opportunistic infection.  RUQ without any acute
   pathology, c.diff negative x 3. CT torso with no abdominal pathology,
   continued increase in lipase but no clinical sx of pancreatitis.
   Possible aspiration pneumonitis. Other noninfectious etiologies for FUO
   include autoimmune dx, drug fever, malignancy, DVT
   -- f/u blood cx, sputum cx, urinalysis
   -- f/u CVL cx
   -- cont empiric abx with vanc/ [**Last Name (un) **]
   -- f/u ID recs
   # Pancreatitis and transaminitis: LFT stable and lipase trending down.
   DDx drug effect (on amiodarone, zosyn), hepatic vein thrombosis,
   underlying cirrhosis, congestive from fluid overload.  RUQ U/S with
   dopplers with no acute pathology. Trending down after d/c of Amio.  Pt
   without abdominal pain. Non-contrast CT no pancreatitic abnormality,
   but limited
   -- cont to trend LFT
   -- d/c amiodarone
   # ANEMIA: initial drop in HCT from 41 to 30. Has been stable for
   several days.  Pt with gross hematuria from foley. hemolysis labs
   negative [**12-26**]
   - monitor HCT
   - active T&S
   .
   #. Hematuria: Pt with hematuria overnight. Likely due to trauma and
   heparin gtt. Still good UOP and no clots.
   -- cont to monitor UOP
   -- consider CBI if clot
   .
   # CORONARIES:   Refused cath in past, unknown coronary anatomy. Initial
   enzymes negative.
   - ASA 325, BB, ACEi, spironolactone
   - cath when stable
   # PUMP:  EF 20%, clinically euvolemic Unclear if ischemic, alcoholic,
   vs idiopathic CMY. Given 40mg IV lasix x1 this AM
   - Daily weights, strict I/Os, goal slightly negative
   - continue metoprolol, ACEI
   # AMS: MS much improved today with initiation of seroquel and haldol
   prn. Psych following.  Secondary to ICU psychosis and systemic illness/
   fevers.  Unlikely to be CNS infection given non-focal neuro exam, no
   meningeal signs.  Unlikely to be ETOH withdrawal this far into hospital
   course.
   - cont seroquel QHS to reorient to normal day-night cycles
   - haldol prn, monitor QTc
   - limit hospital tethers: lines, restraints as possible
   #FEN: cardiac. Soft/thick liquids/ replete prn
   #ACCESS: PICC
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen colace, senna, H2 blocker
   -CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-1-3**] 12:58 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Will plan to d/c heparin gtt given cephalic vein thrombus given no
   evidence of DVT and no hematuria. Start heparin sq for DVT ppx.
   ------ Protected Section Addendum Entered By:[**Name (NI) 528**] [**Last Name (NamePattern1) 284**], MD
   on:[**2125-1-4**] 11:06 ------

2125-01-05 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-1-4**] 11:00 AM
 BLOOD CULTURED - At [**2125-1-4**] 11:21 AM
 FEVER - 101.4
F - [**2125-1-4**] 09:00 AM
   - fever 101.4 blood cx sent
   - d/c'ed hep gtt
   - EP recs: d/c lidocaine.  restart amiodarone 400mg PO BID. monitor
   LFTs.
   - renal function stable - will start lisinopril 5mg daily in am.
   - pulm signed off: rec CT scan in 6 weeks to re-eval LAD, t/c cardiac
   MRI for ?sarcoid.
   - ID rec: 8 day course of meropenum.  Could d/c vanco.  recheck C. diff
   given diarrhea.
   - d/c'ed colchicine [**2-14**] diarrhea.
   - given lasix 40 IV x1 for diuresis.
   - weaned O2 down to room air!
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-4**] 08:12 AM
   Meropenem - [**2125-1-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-1-4**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-5**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.6
C (97.9
   HR: 75 (65 - 85) bpm
   BP: 123/62(77) {100/28(56) - 139/77(90)} mmHg
   RR: 17 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 98.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,621 mL
                                                                    237 mL
   PO:
                                                                    420 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,201 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    260 mL
   Urine:
                                                                  2,240 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -619 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   512 K/uL
   10.6 g/dL
   111 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   31 mg/dL
   104 mEq/L
   139 mEq/L
   31.3 %
   15.3 K/uL
        [image002.jpg]
                            [**2124-12-31**]  08:30 PM
                            [**2124-12-31**]  08:42 PM
                            [**2125-1-1**]  05:38 AM
                            [**2125-1-1**]  06:30 AM
                            [**2125-1-1**]  08:10 PM
                            [**2125-1-2**]  05:51 AM
                            [**2125-1-3**]  04:02 AM
                            [**2125-1-3**]  01:37 PM
                            [**2125-1-4**]  04:16 AM
                            [**2125-1-5**]  04:15 AM
   WBC
   21.4
   20.5
   21.2
   15.1
   15.3
   Hct
   33.5
   33.3
   33.4
   31.6
   31.3
   Plt
   487
   523
   595
   558
   512
   Cr
   1.7
   1.6
   1.6
   1.4
   1.5
   1.4
   1.2
   1.2
   TCO2
   36
   36
   Glucose
   127
   113
   117
   114
   126
   107
   108
   111
   Other labs: PT / PTT / INR:17.8/32.0/1.6, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:62/53, Alk Phos / T Bili:95/0.7,
   Amylase / Lipase:195/571, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:8.0 %, Eos:4.0 %, Fibrinogen:697 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:235 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia.
   Hospital course cx by profound hypotension and respiratory distress
   requiring intubation.  Now with increasing WBC, persistent fevers and
   delirium
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT on admission.  Pt with
   episode of VT that responded to 100mg IV lidocaine followed by gtt at
   1mg/min. Pt with 2 more short runs  last 24hrs.today, but maintained
   pulse and mentation throughout.
   -- cont lidocaine gtt and discuss further recommendation with EP
   -- continue metoprolol at 75mg TID
   -- amiodarone restarted yesterday - continue 400mg PO BID & monitor
   LFTs.
   -- Replete lytes
   -- Telemetry
   -- will need cath and ICD placement. Will need to discuss with EP
   regarding timing given improved leukocytosis and fever curve
   # HYPOXIA: Multifactorial
 Pulmonary edema, ARDS, PNA.  Pt with
   improved resp status and only requiring 4L NC. Multiple negative sputum
   cx.  CT torso with bibasilar consolidations with nodular opacities
   within the lungs, c/w multifocal vs aspiration PNA; extensive
   mediastinal and hilar LAD with calcifications - ? reactive vs
   malignancy.
   -- continue Vanco day 13 and meropenem day 4 as per ID recommendation
   -- f/u ACE to r/o sarcoid
   -- f/u sputum for cytology
   -- frequent suctioning to remove secretions
   -- continue nebs prn
   -- repeat CT in 6 wks to [**Year (4 digits) **] for changes in pulm nodules and cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **] for sarcoid
   # RUE DVT: Pt found to have occlusive thrombus in cephalic vein on RUE
   U/S. Pt with cont hematuria.
   -- continue heparin gtt with conservative PTT goal 60-80
   #Fever, leukocytosis
 Pt febrile this AM. Leukocytosis is trending
   down.  Pt improving on Vanco/[**Last Name (un) 350**]. Suggest infectious process despite
   prior broad spectrum antibiotics for VAP.  Pt not immunocompromised so
   unlikely to have opportunistic infection.  RUQ without any acute
   pathology, c.diff negative x 3. CT torso with no abdominal pathology,
   continued increase in lipase but no clinical sx of pancreatitis.
   Possible aspiration pneumonitis. Other noninfectious etiologies for FUO
   include autoimmune dx, drug fever, malignancy, DVT
   -- f/u blood cx, sputum cx, urinalysis
   -- f/u CVL cx
   -- cont empiric abx with vanc/ [**Last Name (un) **]
   -- f/u ID recs
   # Pancreatitis and transaminitis: LFT stable and lipase trending down.
   DDx drug effect (on amiodarone, zosyn), hepatic vein thrombosis,
   underlying cirrhosis, congestive from fluid overload.  RUQ U/S with
   dopplers with no acute pathology. Trending down after d/c of Amio.  Pt
   without abdominal pain. Non-contrast CT no pancreatitic abnormality,
   but limited
   -- cont to trend LFT
   # ANEMIA: initial drop in HCT from 41 to 30. Has been stable for
   several days.  Pt with gross hematuria from foley. hemolysis labs
   negative [**12-26**]
   - monitor HCT
   - active T&S
   .
   #. Hematuria: Pt with hematuria overnight. Likely due to trauma and
   heparin gtt. Still good UOP and no clots.
   -- cont to monitor UOP
   -- consider CBI if clot
   .
   # CORONARIES:   Refused cath in past, unknown coronary anatomy. Initial
   enzymes negative.
   - ASA 325, BB, ACEi, spironolactone
   - cath when stable
   # PUMP:  EF 20%, clinically euvolemic Unclear if ischemic, alcoholic,
   vs idiopathic CMY. Given 40mg IV lasix x1 this AM
   - Daily weights, strict I/Os, goal slightly negative
   - continue metoprolol, ACEI
   # AMS: MS much improved today with initiation of seroquel and haldol
   prn. Psych following.  Secondary to ICU psychosis and systemic illness/
   fevers.  Unlikely to be CNS infection given non-focal neuro exam, no
   meningeal signs.  Unlikely to be ETOH withdrawal this far into hospital
   course.
   - cont seroquel QHS to reorient to normal day-night cycles
   - haldol prn, monitor QTc
   - limit hospital tethers: lines, restraints as possible
   #FEN: cardiac. Soft/thick liquids/ replete prn
   #ACCESS: PICC
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen colace, senna, H2 blocker
   CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-1-3**] 12:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-01-06 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-5**]:
   ID: increase meropenem to q6 and extend treatment to 10 days. Consider
   14 day course if continues to symptoms of infection. Ordered induced
   sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-4**] 08:12 AM
   Meropenem - [**2125-1-5**] 07:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-6**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 63 (59 - 87) bpm
   BP: 89/47(75) {89/42(55) - 128/79(88)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 98.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,220 mL
                                                                     78 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    590 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    300 mL
   Urine:
                                                                    960 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    260 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   542 K/uL
   9.6 g/dL
   107 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.2 mEq/L
   32 mg/dL
   108 mEq/L
   140 mEq/L
   28.9 %
   14.2 K/uL
        [image002.jpg]
                            [**2124-12-31**]  08:42 PM
                            [**2125-1-1**]  05:38 AM
                            [**2125-1-1**]  06:30 AM
                            [**2125-1-1**]  08:10 PM
                            [**2125-1-2**]  05:51 AM
                            [**2125-1-3**]  04:02 AM
                            [**2125-1-3**]  01:37 PM
                            [**2125-1-4**]  04:16 AM
                            [**2125-1-5**]  04:15 AM
                            [**2125-1-6**]  04:20 AM
   WBC
   21.4
   20.5
   21.2
   15.1
   15.3
   14.2
   Hct
   33.5
   33.3
   33.4
   31.6
   31.3
   28.9
   Plt
   487
   523
   595
   558
   512
   542
   Cr
   1.6
   1.6
   1.4
   1.5
   1.4
   1.2
   1.2
   1.1
   TCO2
   36
   36
   Glucose
   113
   117
   114
   126
   107
   108
   111
   107
   Other labs: PT / PTT / INR:14.4/26.3/1.3, CK / CKMB /
   Troponin-T:166/5/0.22, ALT / AST:58/49, Alk Phos / T Bili:79/0.4,
   Amylase / Lipase:195/744, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:8.0 %, Eos:4.0 %, Fibrinogen:697 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:235 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Microbiology: all cx's are NGTD
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CARDIOMYOPATHY, OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SHOCK, CARDIOGENIC
 ANXIETY
 VENTRICULAR TACHYCARDIA, SUSTAINED
 PULMONARY EDEMA
   60 year old man with history of idiopathic cardiomyopathy presents with
   wide complex tachycardia, consistent with ventricular tachycardia.
   Hospital course cx by profound hypotension and respiratory distress
   requiring intubation.  Now with increasing WBC, persistent fevers and
   delirium
   # WCT: Rate near 300bpm s/p cardioversion with extreme axis and
   concordance, making it most likely to be VT on admission.  Pt with
   episode of VT 2 days prior that responded to lidocaine. No further
   episodes and started on amio, d/c lidocaine.
    -- continue amio 400mg PO BID & monitor LFTs
   -- f/u EP recs
   - continue metoprolol at 75mg TID
   -- Replete lytes
   -- Telemetry
   -- will need cath and ICD placement. Will need to discuss with EP
   regarding timing given improved leukocytosis and fever curve
   # HYPOXIA: Resolved. Multifactorial
 Pulmonary edema, ARDS, PNA.  Pt
   with improved resp status and weaned to RA. Multiple negative sputum
   cx.  CT torso with bibasilar consolidations with nodular opacities
   within the lungs, c/w multifocal vs aspiration PNA; extensive
   mediastinal and hilar LAD with calcifications - ? reactive vs
   malignancy.
   -- completed Vanco  and meropenem day [**5-19**] as per ID recommendation
   -- f/u ACE to r/o sarcoid
   -- f/u sputum for cytology
   -- frequent suctioning to remove secretions
   -- continue nebs prn
   -- repeat CT in 6 wks to [**Month/Day (4) **] for changes in pulm nodules and cardiac
   MR [**First Name (Titles) **] [**Last Name (Titles) **] for sarcoid
   # RUE Superficial Thrombus: Pt found to have occlusive thrombus in
   cephalic vein on RUE U/S. No indication for continued anticoag
   #Fever, leukocytosis
 Pt febrile this AM. Leukocytosis is stable at
   15.3.  Pt improving on [**Last Name (un) 350**]. Suggest infectious process despite prior
   broad spectrum antibiotics for VAP.  Pt not immunocompromised so
   unlikely to have opportunistic infection.  RUQ without any acute
   pathology, c.diff negative x 3. CT torso with no abdominal pathology,
   continued increase in lipase but no clinical sx of pancreatitis.
   Possible aspiration pneumonitis. Other noninfectious etiologies for FUO
   include autoimmune dx, drug fever, malignancy, DVT
   -- f/u blood cx, sputum cx, urinalysis
   -- f/u CVL cx
   -- cont empiric abx with [**Last Name (un) **] [**5-19**]
   -- f/u c diff
   -- f/u ID recs
   # Pancreatitis and transaminitis: LFT stable and lipase trending down.
   DDx drug effect (on amiodarone, zosyn), hepatic vein thrombosis,
   underlying cirrhosis, congestive from fluid overload.  RUQ U/S with
   dopplers with no acute pathology. Trending down after d/c of Amio.  Pt
   without abdominal pain. Non-contrast CT no pancreatitic abnormality,
   but limited
   -- restarting amio
   -- cont to trend LFT
   # ANEMIA: initial drop in HCT from 41 to 30. Has been stable for
   several days.   hemolysis labs negative [**12-26**]
   - monitor HCT
   - active T&S
   ..
   # CORONARIES:   Refused cath in past, unknown coronary anatomy. Initial
   enzymes negative.
   - ASA 325, BB, ACEi,
   - cath when stable
   # PUMP:  EF 20%, clinically euvolemic Unclear if ischemic, alcoholic,
   vs idiopathic CMY. Given 40mg IV lasix x1 this AM
   - Daily weights, strict I/Os, goal slightly negative
   - continue metoprolol, ACEI, spironolactone
   # AMS: MS much improved today with initiation of seroquel and haldol
   prn. Psych following.  Secondary to ICU psychosis and systemic illness/
   fevers.  Unlikely to be CNS infection given non-focal neuro exam, no
   meningeal signs.  Unlikely to be ETOH withdrawal this far into hospital
   course.
   - cont seroquel QHS to reorient to normal day-night cycles
   - haldol prn, monitor QTc
   - limit hospital tethers: lines, restraints as possible
   #FEN: cardiac. Soft/thick liquids/ replete prn
   #ACCESS: PICC
   #PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen colace, senna, H2 blocker
   CODE: Full
   COMM:  [**Name (NI) **], family
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-1-3**] 12:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU